US03970693
To a slurry of 22.7 g. (0.17 mole) of anhydrous aluminum chloride and 9.6 g. (0.10 mole) of fluorobenzene is added 14.1 g. (0.10 mole) of β-chloroisobutyrylchloride over 30 minutes at 20° to 25°C. The mixture is aged for 30 minutes at 20° to 25°C and then quenched in ice. The product is extracted into hexane. The hexane layer is dried over anhydrous sodium sulfate and concentrated in vacuo to give 3-chloro-4'-fluoro-2-methylpropiophenone.

reactant | aluminum chloride | 0.17 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 0.10 mole | FC1=CC=CC=C1 | C6H5F
reactant | β-chloroisobutyrylchloride | 0.10 mole | ClCC(C(=O)Cl)C | C4H6Cl2O
product | 3-chloro-4'-fluoro-2-methylpropiophenone | ClCC(C(=O)C1=CC=C(C=C1)F)C | C10H10ClFO
